US08357711B2
(2S)-2-[(3-Chlorophenoxy)methyl]pyrrolidine hydrochloride
tert-Butyl (2S)-2-[(3-chlorophenoxy)methyl]pyrrolidine-1-carboxylate (Preparation 89, 1.50 g, 4.81 mmol) was stirred with 4 M of hydrogen chloride in 1,4-dioxane (10 mL). After 2 h, the reaction mixture was concentrated in vacuo (TLC analysis showed only baseline material in 3:1 hexanes-ethyl acetate).

reactant | tert-Butyl (2S)-2-[(3-chlorophenoxy)methyl]pyrrolidine-1-carboxylate | 4.81 mmol, 1.50 g | ClC=1C=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=CC1 | C16H22ClNO3
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2S)-2-[(3-Chlorophenoxy)methyl]pyrrolidine hydrochloride | Cl.ClC=1C=C(OC[C@H]2NCCC2)C=CC1 | InChI=1S/C11H14ClNO.ClH/c12-9-3-1-5-11(7-9)14-8-10-4-2-6-13-10;/h1,3,5,7,10,13H,2,4,6,8H2;1H/t10-;/m0./s1
